US05187156
Boc-βAla-OH (0.19 g), HCl.H-Thr-D-Trp(CHO)-Phe-NMeBzl (0.62 g) and HOBT (0.14 g) were dissolved in DMF (10 ml). To this solution was added WSC (0.18 ml) under ice cooling and the mixture was stirred for four hours at room temperature. After evaporation and extraction with ethyl acetate, the organic layer was washed successively with water, 2% sodium hydrogencarbonate solution, water, 2% hydrochloric acid, water and saturated sodium chloride solution, and dried over magnesium sulfate. The evaporated residue was crystallized from a mixed solvent of ethanol and water. Filtration and drying gave Boc-βAla-Thr-D-Trp(CHO)-Phe-NMeBzl (0.66 g).

reactant | Boc-βAla-OH | 0.19 g | N(CCC(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | HCl | Cl | ClH
reactant | H-Thr-D-Trp(CHO)-Phe-NMeBzl | 0.62 g | N[C@@H]([C@H](O)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1 | C33H37N5O5
reactant | HOBT | 0.14 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 0.18 ml | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Boc-βAla-Thr-D-Trp(CHO)-Phe-NMeBzl | 0.66 g | N(CCC(=O)N[C@@H]([C@H](O)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1)C(=O)OC(C)(C)C | C41H50N6O8
